US08461328B2
A mixture of 4-methyl-4-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-piperidine-1-carboxylic acid tert butyl ester (200 mg, 0.56 mmol) in DCM/TFA was stirred for 1.5 hours. The solvent was evaporated under vacuum and the resulting residue purified by column chromatography using an Isolute® SCX-2 column (gradient: 0 to 50% [2M NH3 in methanol] in DCM) to afford 145 mg (100%) of 1-(4-methyl-piperidin-4-yl)-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene. LCMS (Method I, ESI): RT=0.32 & 1.58 min, m+H=257.3; 1H NMR (400 MHz, DMSO) δ: 12.41 (s, 1H), 9.04 (s, 1H), 7.62 (d, 1H), 7.04 (m, 1H), 2.90 (m, 2H), 2.79 (m, 2H), 2.70 (m, 2H), 2.05 (m, 2H), 1.84 (s, 3H).

reactant | 4-methyl-4-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-piperidine-1-carboxylic acid tert butyl ester | 0.56 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(N1N=NC2=CN=C3NC=CC3=C12)C | C18H24N6O2
solvent | DCM TFA | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 1-(4-methyl-piperidin-4-yl)-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene | 145 mg, 100% | CC1(CCNCC1)N1N=NC2=CN=C3NC=CC3=C12 | C13H16N6
